US08217066B2
Step 1: 1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-but-3-en-1-ol:
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde (0.511 g, 1.92 mmol), 3-bromo-3,3-difluoro-propene (0.4977 g, 3.07 mmol), indium (0.357 g, 3.07 mmol) and sodium iodide (0.0142 g, 0.096 mmol) were combined in DMF (5 mL) and stirred at room temperature overnight. The reaction mixture was submitted to standard aqueous workup to afford the title compound, which was taken to the next step without further purification.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | 1.92 mmol, 0.511 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 3-bromo-3,3-difluoro-propene | 3.07 mmol, 0.4977 g | BrC(C=C)(F)F | C3H3BrF2
reactant | indium | 3.07 mmol, 0.357 g | [In] | In
reactant | sodium iodide | 0.096 mmol, 0.0142 g | [I-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-but-3-en-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(C=C)(F)F)O | C14H12BrF2NO2
